US08383827B2
Step 1: Synthesis of 2-Methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile
A mixture of 4-Bromo-2-methoxy-benzonitrile (1 g, 4.72 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.198 g, 4.72 mmol), potassium acetate (0.926 g, 9.43 mmol) and PdCl2(dppf).CH2Cl2 adduct (0.193 g, 0.236 mmol) in 1,4-dioxane (10 mL, dry) was heated to 80° C. for 5 h. The mixture was concentrated, and the residue was purified by isco column (ethyl acetate-heptane, v/v, 10%-20%) and yielded a colorless solid (850 mg). 1H NMR (400 MHz, CDCl3): δ 1.35 (s, 12H), 3.97 (s, 3H), 7.35 (s, 1H), 7.54 (d, J=7.5 Hz, 1H), 7.42 (d, J=7.5 Hz, 1H).

reactant | 4-Bromo-2-methoxy-benzonitrile | 4.72 mmol, 1 g | BrC1=CC(=C(C#N)C=C1)OC | C8H6BrNO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 4.72 mmol, 1.198 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 9.43 mmol, 0.926 g | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.236 mmol, 0.193 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | 850 mg | COC1=C(C#N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H18BNO3
